US09422292B2
A mixture of (R)-8-bromo-6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (40.2 mg, 0.1 mmol), 1H-1,2,4-triazole (13.8 mg, 0.2 mmol), copper(I) iodide (3.8 mg, 0.02 mmol), and cesium carbonate (59 mg, 0.18 mmol) in N-methyl-2-pyrrolidone (3 mL) was stirred at 150° C. for 16 hours. The mixture was diluted with water (10 mL), extracted with ethyl acetate (3*20 mL). The combined organic layer was washed with water (3*20 mL) and brine (3*20 mL) in turns, dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by prep-TLC (silica-gel, dichloromethane/methanol=15:1) to give (R)-6-(4-chlorophenyl)-1,4-dimethyl-8-(1H-1,2,4-triazol-1-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine as a white solid (10 mg, 25.7%).

reactant | (R)-8-bromo-6-(4-chlorophenyl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.1 mmol, 40.2 mg | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C3=CC=C(C=C3)Cl)C1 | C18H16BrClN4
reactant | 1H-1,2,4-triazole | 0.2 mmol, 13.8 mg | N1N=CN=C1 | C2H3N3
reactant | cesium carbonate | 0.18 mmol, 59 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 10 mL | O | H2O
catalyst | copper(I) iodide | 0.02 mmol, 3.8 mg | [Cu]I
product | (R)-6-(4-chlorophenyl)-1,4-dimethyl-8-(1H-1,2,4-triazol-1-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 10 mg, 25.7% | ClC1=CC=C(C=C1)N1C2=C(N3C([C@@H](C1)C)=NN=C3C)C=CC(=C2)N2N=CN=C2 | C20H18ClN7
